US07342031B2
To the mixture of 20 ml of toluene and 10 ml of water, 2.02 g of benzylisothiourea hydrochloride, 1.86 g of perchloromethylmercaptan and 46 mg of benzyltriethylammonium chloride were added, followed the solution of 1.6 g of sodium hydroxide dissolved to 10 ml of water was added dropwise at about 0° C., and then stirred for 2 hours. Then, t-butylmethylether was added to the reaction mixture, and extracted. The organic layer was dried by anhydrous sodium salfate, and concentrated The residue obtaind was subjected to silica gel column chromatography (hexane:ethylacetate=20:1) to obtain 900 mg of 3-benzylthio-5-chloro-1,2,4-thiadiazole.

reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | benzylisothiourea hydrochloride | 2.02 g | Cl.C(C1=CC=CC=C1)NC(S)=N
reactant | perchloromethylmercaptan | 1.86 g | ClC(Cl)(Cl)S | CHCl3S
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 46 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 3-benzylthio-5-chloro-1,2,4-thiadiazole | 900 mg | C(C1=CC=CC=C1)SC1=NSC(=N1)Cl | C9H7ClN2S2
